US04342870
A mixture of 5 parts of 3-(2-chloroethyl)-2-methyl-4H-pyrido-[1,2-a]pyrimidin-4-one, 4.9 parts of (4-fluorophenyl)(4-piperidinyl)-methanone hydrochloride, 5 parts of sodium carbonate and 160 parts of 4-methyl-2-pentanone is stirred and refluxed for 24 hours. The reaction mixture is cooled, washed with water and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (92:8 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of ethanol and 1,1'-oxybisethane, yielding 3 parts of 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one; mp. 139° C.

reactant | 3-(2-chloroethyl)-2-methyl-4H-pyrido-[1,2-a]pyrimidin-4-one | ClCCC1=C(N=C2N(C1=O)C=CC=C2)C | C11H11ClN2O
reactant | (4-fluorophenyl)(4-piperidinyl)-methanone hydrochloride | Cl.FC1=CC=C(C=C1)C(=O)C1CCNCC1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | FC1=CC=C(C(=O)C2CCN(CC2)CCC2=C(N=C3N(C2=O)C=CC=C3)C)C=C1 | C23H24FN3O2
